* ============================================================================
* SKY130 standard cell library - 13 subcircuits:
*   invx1 invx2 invx4 invx8
*   nand2x1 nand2x2 nand2x4
*   nor2x1 nor2x2 nor2x4
*   maj3x1 maj3x2 maj3x4
* ============================================================================

* invx1
.subckt invx1 A Y VDD VSS
MP0 Y A VDD VDD sky130_fd_pr__pfet_01v8 W=1.00e-6 L=0.15e-6
MN0 Y A VSS VSS sky130_fd_pr__nfet_01v8 W=0.42e-6 L=0.15e-6
.ends invx1

* invx2
.subckt invx2 A Y VDD VSS
MP0 Y A VDD VDD sky130_fd_pr__pfet_01v8 W=2.00e-6 L=0.15e-6
MN0 Y A VSS VSS sky130_fd_pr__nfet_01v8 W=0.84e-6 L=0.15e-6
.ends invx2

* invx4
.subckt invx4 A Y VDD VSS
MP0 Y A VDD VDD sky130_fd_pr__pfet_01v8 W=4.00e-6 L=0.15e-6
MN0 Y A VSS VSS sky130_fd_pr__nfet_01v8 W=1.68e-6 L=0.15e-6
.ends invx4

* invx8
.subckt invx8 A Y VDD VSS
MP0 Y A VDD VDD sky130_fd_pr__pfet_01v8 W=8.00e-6 L=0.15e-6
MN0 Y A VSS VSS sky130_fd_pr__nfet_01v8 W=3.36e-6 L=0.15e-6
.ends invx8

* nand2x1
.subckt nand2x1 A B Y VDD VSS
MP0 Y A VDD VDD sky130_fd_pr__pfet_01v8 W=1.00e-6 L=0.15e-6
MP1 Y B VDD VDD sky130_fd_pr__pfet_01v8 W=1.00e-6 L=0.15e-6
MN0 Y   A mid VSS sky130_fd_pr__nfet_01v8 W=0.84e-6 L=0.15e-6
MN1 mid B VSS VSS sky130_fd_pr__nfet_01v8 W=0.84e-6 L=0.15e-6
.ends nand2x1

* nand2x2
.subckt nand2x2 A B Y VDD VSS
MP0 Y A VDD VDD sky130_fd_pr__pfet_01v8 W=2.00e-6 L=0.15e-6
MP1 Y B VDD VDD sky130_fd_pr__pfet_01v8 W=2.00e-6 L=0.15e-6
MN0 Y   A mid VSS sky130_fd_pr__nfet_01v8 W=1.68e-6 L=0.15e-6
MN1 mid B VSS VSS sky130_fd_pr__nfet_01v8 W=1.68e-6 L=0.15e-6
.ends nand2x2

* nand2x4
.subckt nand2x4 A B Y VDD VSS
MP0 Y A VDD VDD sky130_fd_pr__pfet_01v8 W=4.00e-6 L=0.15e-6
MP1 Y B VDD VDD sky130_fd_pr__pfet_01v8 W=4.00e-6 L=0.15e-6
MN0 Y   A mid VSS sky130_fd_pr__nfet_01v8 W=3.36e-6 L=0.15e-6
MN1 mid B VSS VSS sky130_fd_pr__nfet_01v8 W=3.36e-6 L=0.15e-6
.ends nand2x4

* nor2x1
.subckt nor2x1 A B Y VDD VSS
MP0 mid A VDD VDD sky130_fd_pr__pfet_01v8 W=2.00e-6 L=0.15e-6
MP1 Y   B mid VDD sky130_fd_pr__pfet_01v8 W=2.00e-6 L=0.15e-6
MN0 Y A VSS VSS sky130_fd_pr__nfet_01v8 W=0.42e-6 L=0.15e-6
MN1 Y B VSS VSS sky130_fd_pr__nfet_01v8 W=0.42e-6 L=0.15e-6
.ends nor2x1

* nor2x2
.subckt nor2x2 A B Y VDD VSS
MP0 mid A VDD VDD sky130_fd_pr__pfet_01v8 W=4.00e-6 L=0.15e-6
MP1 Y   B mid VDD sky130_fd_pr__pfet_01v8 W=4.00e-6 L=0.15e-6
MN0 Y A VSS VSS sky130_fd_pr__nfet_01v8 W=0.84e-6 L=0.15e-6
MN1 Y B VSS VSS sky130_fd_pr__nfet_01v8 W=0.84e-6 L=0.15e-6
.ends nor2x2

* nor2x4
.subckt nor2x4 A B Y VDD VSS
MP0 mid A VDD VDD sky130_fd_pr__pfet_01v8 W=8.00e-6 L=0.15e-6
MP1 Y   B mid VDD sky130_fd_pr__pfet_01v8 W=8.00e-6 L=0.15e-6
MN0 Y A VSS VSS sky130_fd_pr__nfet_01v8 W=1.68e-6 L=0.15e-6
MN1 Y B VSS VSS sky130_fd_pr__nfet_01v8 W=1.68e-6 L=0.15e-6
.ends nor2x4

* maj3x1
* PUN: (A+B).(B+C).(A+C) - worst case 3 PMOS in series -> W=3.00u
* PDN: AB+BC+AC          - worst case 2 NMOS in series -> W=0.84u
.subckt maj3x1 A B C Y VDD VSS
* PUN
MP0 mid0 A VDD  VDD sky130_fd_pr__pfet_01v8 W=3.00e-6 L=0.15e-6
MP1 mid0 B VDD  VDD sky130_fd_pr__pfet_01v8 W=3.00e-6 L=0.15e-6
MP2 mid1 B mid0 VDD sky130_fd_pr__pfet_01v8 W=3.00e-6 L=0.15e-6
MP3 mid1 C mid0 VDD sky130_fd_pr__pfet_01v8 W=3.00e-6 L=0.15e-6
MP4 Y    A mid1 VDD sky130_fd_pr__pfet_01v8 W=3.00e-6 L=0.15e-6
MP5 Y    C mid1 VDD sky130_fd_pr__pfet_01v8 W=3.00e-6 L=0.15e-6
* PDN
MN0 Y    A mid0 VSS sky130_fd_pr__nfet_01v8 W=0.84e-6 L=0.15e-6
MN1 mid0 B VSS  VSS sky130_fd_pr__nfet_01v8 W=0.84e-6 L=0.15e-6
MN2 Y    B mid1 VSS sky130_fd_pr__nfet_01v8 W=0.84e-6 L=0.15e-6
MN3 mid1 C VSS  VSS sky130_fd_pr__nfet_01v8 W=0.84e-6 L=0.15e-6
MN4 Y    A mid2 VSS sky130_fd_pr__nfet_01v8 W=0.84e-6 L=0.15e-6
MN5 mid2 C VSS  VSS sky130_fd_pr__nfet_01v8 W=0.84e-6 L=0.15e-6
.ends maj3x1

* maj3x2
* PUN: W=6.00u  PDN: W=1.68u
.subckt maj3x2 A B C Y VDD VSS
* PUN
MP0 mid0 A VDD  VDD sky130_fd_pr__pfet_01v8 W=6.00e-6 L=0.15e-6
MP1 mid0 B VDD  VDD sky130_fd_pr__pfet_01v8 W=6.00e-6 L=0.15e-6
MP2 mid1 B mid0 VDD sky130_fd_pr__pfet_01v8 W=6.00e-6 L=0.15e-6
MP3 mid1 C mid0 VDD sky130_fd_pr__pfet_01v8 W=6.00e-6 L=0.15e-6
MP4 Y    A mid1 VDD sky130_fd_pr__pfet_01v8 W=6.00e-6 L=0.15e-6
MP5 Y    C mid1 VDD sky130_fd_pr__pfet_01v8 W=6.00e-6 L=0.15e-6
* PDN
MN0 Y    A mid0 VSS sky130_fd_pr__nfet_01v8 W=1.68e-6 L=0.15e-6
MN1 mid0 B VSS  VSS sky130_fd_pr__nfet_01v8 W=1.68e-6 L=0.15e-6
MN2 Y    B mid1 VSS sky130_fd_pr__nfet_01v8 W=1.68e-6 L=0.15e-6
MN3 mid1 C VSS  VSS sky130_fd_pr__nfet_01v8 W=1.68e-6 L=0.15e-6
MN4 Y    A mid2 VSS sky130_fd_pr__nfet_01v8 W=1.68e-6 L=0.15e-6
MN5 mid2 C VSS  VSS sky130_fd_pr__nfet_01v8 W=1.68e-6 L=0.15e-6
.ends maj3x2

* maj3x4
* PUN: W=12.00u  PDN: W=3.36u
.subckt maj3x4 A B C Y VDD VSS
* PUN
MP0 mid0 A VDD  VDD sky130_fd_pr__pfet_01v8 W=12.00e-6 L=0.15e-6
MP1 mid0 B VDD  VDD sky130_fd_pr__pfet_01v8 W=12.00e-6 L=0.15e-6
MP2 mid1 B mid0 VDD sky130_fd_pr__pfet_01v8 W=12.00e-6 L=0.15e-6
MP3 mid1 C mid0 VDD sky130_fd_pr__pfet_01v8 W=12.00e-6 L=0.15e-6
MP4 Y    A mid1 VDD sky130_fd_pr__pfet_01v8 W=12.00e-6 L=0.15e-6
MP5 Y    C mid1 VDD sky130_fd_pr__pfet_01v8 W=12.00e-6 L=0.15e-6
* PDN
MN0 Y    A mid0 VSS sky130_fd_pr__nfet_01v8 W=3.36e-6 L=0.15e-6
MN1 mid0 B VSS  VSS sky130_fd_pr__nfet_01v8 W=3.36e-6 L=0.15e-6
MN2 Y    B mid1 VSS sky130_fd_pr__nfet_01v8 W=3.36e-6 L=0.15e-6
MN3 mid1 C VSS  VSS sky130_fd_pr__nfet_01v8 W=3.36e-6 L=0.15e-6
MN4 Y    A mid2 VSS sky130_fd_pr__nfet_01v8 W=3.36e-6 L=0.15e-6
MN5 mid2 C VSS  VSS sky130_fd_pr__nfet_01v8 W=3.36e-6 L=0.15e-6
.ends maj3x4

